US05621010
N-[2-(3,5-di-tert-butyl-4-hydroxyphenethyl)-4,6-difluorophenyl]-N'-(1-benzyl-4-piperidyl)urea hydrochloride
N-[2-(3,5-di-tert-butyl-4-hydroxyphenethyl)-4,6-difluorophenyl]-N'-(1-benzyl-4-piperidyl)urea (1.15 g) was suspended in ethanol (20 ml) and heated at 50° C. to dissolve it. To the solution was added 4N hydrochloric acid/ethyl acetate solution (anhydrous)(0.5 ml). This solution was concentrated to a volume of 5 ml, cooled to 0°-5° C. and allowed to stand for 4 hrs. The resultant crystals were filtered and dried to afford the title compound (1.00 g, 81%).

reactant | N-[2-(3,5-di-tert-butyl-4-hydroxyphenethyl)-4,6-difluorophenyl]-N'-(1-benzyl-4-piperidyl)urea | 1.15 g | C(C)(C)(C)C=1C=C(CCC2=C(C(=CC(=C2)F)F)NC(=O)NC2CCN(CC2)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C | C35H45F2N3O2
reactant | hydrochloric acid ethyl acetate | 4N, 0.5 ml | Cl.C(C)(=O)OCC
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-[2-(3,5-di-tert-butyl-4-hydroxyphenethyl)-4,6-difluorophenyl]-N'-(1-benzyl-4-piperidyl)urea hydrochloride | 1.00 g, 81% | Cl.C(C)(C)(C)C=1C=C(CCC2=C(C(=CC(=C2)F)F)NC(=O)NC2CCN(CC2)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C | InChI=1S/C35H45F2N3O2.ClH/c1-34(2,3)28-18-24(19-29(32(28)41)35(4,5)6)12-13-25-20-26(36)21-30(37)31(25)39-33(42)38-27-14-16-40(17-15-27)22-23-10-8-7-9-11-23;/h7-11,18-21,27,41H,12-17,22H2,1-6H3,(H2,38,39,42);1H
